2121-09-21 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Had respiratory/cardiac (PEA) arrest on floor, was down for about [**3-24**]
   minutes, intubated and transferred to the [**Hospital Unit Name 1**], currently balancing
   single access with mild hypotension induced by sedation, currently
   responding to fluids
   - on fentanyl/midazolam boluses, instead of propofol
   - likely extubation tomorrow
   - pt. s/p head CT for anisocoria--> no acute findings
   - will need to f/u with oncology since it looks like his myeloma has
   returned, given his renal failure, electrolyte disturbances and
   increased kappa:lambda ratio
   - pt. still full code after initial family meeting, will need more
   formal onc input prior to next meeting
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2121-9-20**] 11:51 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2121-9-21**] 01:15 AM
   Fentanyl - [**2121-9-21**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-21**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.1
C (95.2
   HR: 80 (58 - 89) bpm
   BP: 123/60(75) {78/45(53) - 137/68(80)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.5 kg (admission): 64.5 kg
   Height: 67 Inch
             Total In:
                                                                  3,236 mL
                                                                  2,919 mL
   PO:
             TF:
   IVF:
                                                                  3,206 mL
                                                                  2,859 mL
   Blood products:
   Total out:
                                                                    397 mL
                                                                    192 mL
   Urine:
                                                                    397 mL
                                                                    192 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,839 mL
                                                                  2,727 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (550 - 571) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 64
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/25/190/15/-9
   Ve: 5.5 L/min
   PaO2 / FiO2: 543
   Physical Examination
   General Appearance: intubated sedated, with rigid, shaking movements
   with any stimulation
   Eyes / Conjunctiva: Conjunctiva pale, no scleral icterus
   Head, Ears, Nose, Throat: Endotracheal tube, Dobhoff tube both in place
   Cardiovascular: RRR, +S1/S2, no m/r/g
   Peripheral Vascular: 2+ peripheral pulses bilaterally
   Abdominal: Distended, +BS
   Skin:  Not assessed
   Neurologic: Does not Follow simple commands, Responds to: Not assessed,
   Movement: Non -purposeful, Sedated,
   Tone: increased, cog wheeling in bilateral upper extremities
   Labs / Radiology
   41 K/uL
   6.8 g/dL
   137 mg/dL
   2.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   40 mg/dL
   116 mEq/L
   142 mEq/L
   21.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2121-9-16**]  02:41 AM
                             [**2121-9-16**]  05:50 AM
                             [**2121-9-16**]  05:14 PM
                             [**2121-9-20**]  01:47 PM
                             [**2121-9-20**]  02:23 PM
                             [**2121-9-20**]  06:00 PM
                             [**2121-9-20**]  06:17 PM
                             [**2121-9-20**]  10:47 PM
                             [**2121-9-21**]  04:18 AM
   WBC
   7.7
   7.5
   11.4
   4.1
   Hct
   26.9
   26.0
   27.4
   21.0
   Plt
   162
   146
   79
   41
   Cr
   2.2
   2.2
   2.2
   2.7
   2.5
   TropT
   0.03
   0.02
   0.01
   TCO2
   15
   15
   15
   Glucose
   126
   218
   219
   [**Telephone/Fax (2) 10489**]37
   Other labs: PT / PTT / INR:13.5/41.9/1.2, CK / CKMB /
   Troponin-T:128/2/0.01, ALT / AST:2/36, Alk Phos / T Bili:76/,
   Differential-Neuts:45.0 %, Band:14.0 %, Lymph:28.0 %, Mono:9.0 %,
   Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.6 g/dL, LDH:1093 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   S/P PEA ARREST
   PEA arrest likely precipitated by pulmonary arrest given rapidity with
   which normal heart function returned, no epinephrine. [**Month (only) 51**] be [**1-20**]
   secretions and mucus plugging, compromised airway in setting of
   decreased sensorium and altered mental status. Good oxygenation on
   arrival suggests this was not a primary pulmonary event; consistent
   with mucus plug/airway occlusion.  Additionally large volume of
   secretions in the back of his throat and large mucus plug post
   intubation suction leads to a mucus plug being the most likely etiology
   - continued good oxygenation, patient weaned to PS overnight, with
   RSBI=64
   - extubated this morning
   - continue good suction
   - concern for further diminished mental status with difficulty
   controlling his secretions
   - treat C diff w flagyl/po vanc-though unlikely related to AMS
   ALTERED MENTAL STATUS
   Has had consultation and follow-up from neuro, with head imaging.
   Initial concern for infection causing his AMS, had a UTI on admission,
   however MS did not improve with treatment.  Neurology input with no
   clear cause, started on carbidopa-levidopa given his rigidity and
   tremor, which per neuro is not typical of essential tremor.  Had an LP
   that was negative for infection.  EEG consistent with encephalopathy
   but no signs of seizure.  On arrival to the [**Hospital Unit Name 1**] was found to have
   anisocoria which is not documented in prior notes, most likely
   physiologic. However, in setting of AMS, difficult to rule out CVA.
   Infection vs hyperviscosity vs debility in setting of metabolic demand
   in an elderly patient, vs medications vs. possible parkinsons.
   - patient has continued to fail speech/swallow [**Last Name (LF) 10493**], [**First Name3 (LF) **] will hold off
   on feeds for now
   - treating C. diff; UTI was treated; re-send cultures in setting of
   decompensation
   C. DIFFICILE INFECTION
   -Continue Flagyl and PO vanc
   -pan-cx for potential other sources of infection in addition
   MULTIPLE MYELOMA
   Getting 20 mg dexamethasone daily for 4 days. Patient with multiple
   markers of myeloma progression.
   - continuing dex
   - Primary oncologist not currently available; will try to set up a
   family meeting early the week to discuss further goals of care and
   overall prognosis with MM as per family
s request
   - Anemia likely related to MM, and acute drop overnight from IV fluid
   administration, pt. received 5L o/n, will transfuse 1unit PRBC
s since
   his HCT had been dropping prior to transfer
   HYPERPHOSPHATEMIA
   [**Month (only) 51**] be a product of tumor lysis; additionally, spurious
   hyperphosphatemia can be result of hypergammaglobulinemia. Either way
   this is likely the product of multiple myeloma. Hypercalcemia not as
   marked. Less likely to be related to renal failure since patient is
   currently not eating and phos would only rise in renal failure with
   continued ingestion.
   -renal continues to follow
   RENAL FAILURE
   Likely product of multiple myeloma. Follow closely over next 24 hours
   given period of hypoperfusion; however, decrease of gammaglobulin
   production is likely only measure that is likely to help.
   - will start allopurinol given increased uric acid and IVF with bicarb
   to alkalinize his urine
   -          f/u w primary oncologist
   -          appreciate renal f/u and recommendations
   ATRIAL FIBRILLATION
   RVR briefly on arrival. Now in sinus.
   -          continue dilt
   -          monitor on telemetry
   ICU Care
   Nutrition: NPO for now, since patient failed speech and swallow
   evaluation
   IVF: D5 with 150meq of HCO3
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2121-9-20**] 02:15 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU for now pending further stabilization given recent
   extubation

2121-09-21 10:06:00 Physician Attending Progress Note
Chief Complaint: PEA arrest
   Respiratory Failure
   Multiple Myeloma
   C. Diff infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2121-9-20**] 02:00 PM
 INDWELLING PORT (PORTACATH) - START [**2121-9-20**] 02:15 PM
   accessed [**9-13**]  prob in ew
 EKG - At [**2121-9-20**] 07:57 PM
   -Patient extubated without event
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2121-9-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2121-9-21**] 01:15 AM
   Fentanyl - [**2121-9-21**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Flowsheet Data as of  [**2121-9-21**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.1
C (95.2
   HR: 79 (58 - 90) bpm
   BP: 129/64(79) {78/45(53) - 137/78(88)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.5 kg (admission): 64.5 kg
   Height: 67 Inch
             Total In:
                                                                  3,236 mL
                                                                  3,426 mL
   PO:
             TF:
   IVF:
                                                                  3,206 mL
                                                                  3,246 mL
   Blood products:
   Total out:
                                                                    397 mL
                                                                    307 mL
   Urine:
                                                                    397 mL
                                                                    307 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,839 mL
                                                                  3,119 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (550 - 571) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 64
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/25/190/15/-9
   Ve: 5.5 L/min
   PaO2 / FiO2: 543
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : , Dullness : ), (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Not assessed, Tone: Not assessed, Very
   rigid with cogwheel rigidity noted, patient responds in disorganized
   fashion to verbal stimuli
   Labs / Radiology
   6.8 g/dL
   41 K/uL
   137 mg/dL
   2.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   40 mg/dL
   116 mEq/L
   142 mEq/L
   21.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2121-9-16**]  02:41 AM
                             [**2121-9-16**]  05:50 AM
                             [**2121-9-16**]  05:14 PM
                             [**2121-9-20**]  01:47 PM
                             [**2121-9-20**]  02:23 PM
                             [**2121-9-20**]  06:00 PM
                             [**2121-9-20**]  06:17 PM
                             [**2121-9-20**]  10:47 PM
                             [**2121-9-21**]  04:18 AM
   WBC
   7.7
   7.5
   11.4
   4.1
   Hct
   26.9
   26.0
   27.4
   21.0
   Plt
   162
   146
   79
   41
   Cr
   2.2
   2.2
   2.2
   2.7
   2.5
   TropT
   0.03
   0.02
   0.01
   TCO2
   15
   15
   15
   Glucose
   126
   218
   219
   [**Telephone/Fax (2) 10489**]37
   Other labs: PT / PTT / INR:13.5/41.9/1.2, CK / CKMB /
   Troponin-T:128/2/0.01, ALT / AST:2/36, Alk Phos / T Bili:76/,
   Differential-Neuts:45.0 %, Band:14.0 %, Lymph:28.0 %, Mono:9.0 %,
   Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.6 g/dL, LDH:1093 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:5.7 mg/dL
   Microbiology: C. Diff--positive
   Assessment and Plan
   75 yo male with history of multiple myeloma and with altered mental
   status complicating current hospitalization.  He was transferred to
   [**Hospital Ward Name 57**] ICU with PEA arrest with rapid return to spontaneous circulation
   with CPR alone and 2 minute event time.  He has had rapid move to
   extubation and did not have persistent hypotension but has maintained
   altered mental status across time.
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -Patient extubated without event in the setting of favorable
   oxygenation and limited impairment in ventilation
   -Good tolerance of extubation with maintenance of stable saturations
   and ventilation
   2)Altered Mental Status-Definative and single source not clearly seen
   despite extensive investigations.
   -Sinemet treatment in place
   -Thiamine
   -He does have altered pupil reflex
   -Will have to follow up on CT scan
   -Need neurology to evaluate patient and consider further interventions
   and imaging
   3)MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)--Clear worsening by
   parameters (Kappa/Lambda increased,  Increased Ca++) and concern for
   limited therapeutic options raised.
   -Dexamethasone to be completed today
   -Will need to discuss future treatment plan and prognosis with primary
   oncology team and family to guide therapeutic choices going forward.
   -Will transfuse PRBC today
   4)PEA Arrest-Trigger for this does appear to be most likely a
   respiratory source and perhaps triggered by hypoxia with bradycardia
   and progression to PEA arrest as the reversal was quite rapid with
   airway obstruction with secretions quite prominent following
   intubation.  CXR, eletrolytes all reassuring even immediately after
   event.
   -Will need to establish adequate plan for maintenance of patent airway
   -Will take humidified air to keep secretions movable
   -Will suction PRN
   -Will maintain npo
   5)C. Diff Infection-
   -Flagyl to continue
   6)Acute Renal Failure-
   -Persistent
   -Likely related to Myeloma for chronic insult
   ICU Care
   Nutrition: NPO with risk of aspiraiton and airway occlusion
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2121-9-20**] 02:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will organize oncology and neurology for
   family meeting as this likely represents progression of disease with
   acute event related only to acute airway obstruction.
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2121-09-22 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - tested positive C. Diff
   - Extubated successfully morning of [**9-21**]
   - f/u heparin antibodies
   - acute Cr and phos increase
   - alkalinize urine w bicarb--> 125cc/hr D5 w 3amps bicarb
   - allopurinol started this morning (200mg [**Hospital1 7**])
   - respiratory secretions: humidified oxygen, frequent suctioning
   - altered mental status-- consider that it may be parkinsons related?
   - Head CT - f/u final report
   - Neuro Recs (unofficial): likely anisocoria was from the code (nebs or
   atropine, which pt didn't get), but improving, so not as concerning b/c
   pupils still reactive. If pupil became fixed or anisocoria worsening,
   then we can re-scan.
   - pt dxed w Parkinsons by neuro yesterday, so started on
   Carbidopa-levodopa yesterday
   - Email Primary Onc (Dr. [**Last Name (STitle) **]) about MM first-- set up family
   meeting
   - communicate worsened multiple myeloma to family
   - transfuse 1 unit pRBCs today
   - f/u HIT Antibody -- ordered but does not appear as Pending; if does
   not show up as Pending by Monday, RE-Order it
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2121-9-22**] 12:12 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-22**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 79 (68 - 90) bpm
   BP: 139/68(86) {106/47(63) - 156/88(100)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.4 kg (admission): 64.5 kg
   Height: 67 Inch
             Total In:
                                                                  5,688 mL
                                                                  1,108 mL
   PO:
             TF:
   IVF:
                                                                  4,918 mL
                                                                  1,078 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,602 mL
                                                                    680 mL
   Urine:
                                                                  1,602 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,086 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   FiO2: 35%
   SpO2: 100%
   ABG: 7.38/24/120/18/-8
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: , with rigid, shaking movements with any
   stimulation
   Eyes / Conjunctiva: Conjunctiva pale, no scleral icterus
   Head, Ears, Nose, Throat:
   Cardiovascular: RRR, +S1/S2, no m/r/g
   Peripheral Vascular: 2+ peripheral pulses bilaterally
   Abdominal: Distended, +BS
   Skin:  Not assessed
   Neurologic:
   Tone: increased, cog wheeling in bilateral upper extremities
   Labs / Radiology
   36 K/uL
   8.6 g/dL
   222 mg/dL
   2.4 mg/dL
   18 mEq/L
   3.5 mEq/L
   40 mg/dL
   114 mEq/L
   144 mEq/L
   25.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2121-9-16**]  05:50 AM
                             [**2121-9-16**]  05:14 PM
                             [**2121-9-20**]  01:47 PM
                             [**2121-9-20**]  02:23 PM
                             [**2121-9-20**]  06:00 PM
                             [**2121-9-20**]  06:17 PM
                             [**2121-9-20**]  10:47 PM
                             [**2121-9-21**]  04:18 AM
                             [**2121-9-21**]  11:46 AM
                             [**2121-9-22**]  05:00 AM
   WBC
   7.5
   11.4
   4.1
   4.4
   Hct
   26.0
   27.4
   21.0
   25.5
   Plt
   146
   79
   41
   36
   Cr
   2.2
   2.2
   2.7
   2.5
   2.4
   TropT
   0.02
   0.01
   TCO2
   15
   15
   15
   15
   Glucose
   [**Telephone/Fax (3) 10505**]
   137
   222
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.9 mg/dL
[**2121-9-20**] 5:23 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2121-9-20**]):
      <10 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
         MOLD.    RARE GROWTH.
   Imaging:
   CT Head ([**9-20**]): No acute intracranial process
   Chest X-ray ([**9-20**]): Small bilateral pleural effusions are new and left
   lower lobe atelectasis is worsened, pulmonary vasculature is engorged
   but there is probably not pulmonary edema. Heart size normal.
   Mediastinum not widened. ET tube and right subclavian infusion port are
   in standard placements and a feeding tube passes into a severely
   distended stomach and out of view.
   Assessment and Plan
   S/P PEA ARREST
   PEA arrest likely precipitated by pulmonary arrest given rapidity with
   which normal heart function returned, no epinephrine. [**Month (only) 51**] be [**1-20**]
   secretions and mucus plugging, compromised airway in setting of
   decreased sensorium and altered mental status. Good oxygenation on
   arrival suggests this was not a primary pulmonary event; consistent
   with mucus plug/airway occlusion.  Additionally large volume of
   secretions in the back of his throat and large mucus plug post
   intubation suction leads to a mucus plug being the most likely etiology
   - continued good oxygenation, patient weaned to PS overnight, with
   RSBI=64
   - extubated this morning
   - continue good suction
   - concern for further diminished mental status with difficulty
   controlling his secretions
   - treat C diff w flagyl/po vanc-though unlikely related to AMS
   ALTERED MENTAL STATUS
   Has had consultation and follow-up from neuro, with head imaging.
   Initial concern for infection causing his AMS, had a UTI on admission,
   however MS did not improve with treatment.  Neurology input with no
   clear cause, started on carbidopa-levidopa given his rigidity and
   tremor, which per neuro is not typical of essential tremor.  Had an LP
   that was negative for infection.  EEG consistent with encephalopathy
   but no signs of seizure.  On arrival to the [**Hospital Unit Name 1**] was found to have
   anisocoria which is not documented in prior notes, most likely
   physiologic. However, in setting of AMS, difficult to rule out CVA.
   Infection vs hyperviscosity vs debility in setting of metabolic demand
   in an elderly patient, vs medications vs. possible parkinsons.
   - patient has continued to fail speech/swallow [**Last Name (LF) 10493**], [**First Name3 (LF) **] will hold off
   on feeds for now
   - treating C. diff; UTI was treated; re-send cultures in setting of
   decompensation
   MULTIPLE MYELOMA
   Getting 20 mg dexamethasone daily for 4 days. Patient with multiple
   markers of myeloma progression.
   - continuing dex
   - Primary oncologist not currently available; will try to set up a
   family meeting early the week to discuss further goals of care and
   overall prognosis with MM as per family
s request
   - Anemia likely related to MM, and acute drop overnight from IV fluid
   administration, pt. received 5L o/n, will transfuse 1unit PRBC
s since
   his HCT had been dropping prior to transfer
   THROMBOCYTOPENIA
   Concern by the primary team for possible HIT since his platelets have
   dropped from 253 now down to 36 today.  Currently holding all heparin
   products, HIT labs are not pending in OMR so will resend today.  Also
   concern that since his multiple myeloma has been progressing that his
   bone marrow may be infiltrated with malignancy and unable to produce
   platelets appropriately.
   - will resend HIT labs
   - continue to hold all heparin
   - if patient will need any procedures then he will need platelet
   transfusions
   C. DIFFICILE INFECTION
   -Continue Flagyl
   -pan-cx for potential other sources of infection in addition
   HYPERPHOSPHATEMIA
   [**Month (only) 51**] be a product of tumor lysis; additionally, spurious
   hyperphosphatemia can be result of hypergammaglobulinemia. Either way
   this is likely the product of multiple myeloma. Hypercalcemia not as
   marked. Less likely to be related to renal failure since patient is
   currently not eating and phos would only rise in renal failure with
   continued ingestion.
   -renal continues to follow
   RENAL FAILURE
   Likely product of multiple myeloma. Follow closely over next 24 hours
   given period of hypoperfusion; however, decrease of gammaglobulin
   production is likely only measure that is likely to help.
   - will start allopurinol given increased uric acid and IVF with bicarb
   to alkalinize his urine
   -          f/u w primary oncologist
   -          appreciate renal f/u and recommendations
   ATRIAL FIBRILLATION
   RVR briefly on arrival. Now in sinus.
   -          continue dilt
   -          monitor on telemetry
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2121-9-20**] 02:15 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: Called out to floor

2121-09-22 13:13:00 Physician Attending Progress Note
Chief Complaint: Cardiac arrest, acute respiratory failure, altered
   mental status, multiple myeloma, renal failure, anemia, acidosis, c
   diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated and respiratory status stable. Mental status appears
   to be near baseline; family indicates that the patient is speaking in
   his native language.
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Altered mental status
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2121-9-22**] 08:06 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Insulin, flagyl, dilt, synthroid, sinemet, allopurinol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-22**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.2
C (95.4
   HR: 80 (66 - 85) bpm
   BP: 150/78(91) {125/65(77) - 158/88(100)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.4 kg (admission): 64.5 kg
   Height: 67 Inch
             Total In:
                                                                  5,688 mL
                                                                  1,329 mL
   PO:
             TF:
   IVF:
                                                                  4,918 mL
                                                                  1,224 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,602 mL
                                                                  1,330 mL
   Urine:
                                                                  1,602 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,086 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: Reacts with palpation of abdomen but denies pain, No(t) Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Unable to assess; limited response frmo
   patient, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   36 K/uL
   222 mg/dL
   2.4 mg/dL
   18 mEq/L
   3.5 mEq/L
   40 mg/dL
   114 mEq/L
   144 mEq/L
   25.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2121-9-16**]  05:50 AM
                             [**2121-9-16**]  05:14 PM
                             [**2121-9-20**]  01:47 PM
                             [**2121-9-20**]  02:23 PM
                             [**2121-9-20**]  06:00 PM
                             [**2121-9-20**]  06:17 PM
                             [**2121-9-20**]  10:47 PM
                             [**2121-9-21**]  04:18 AM
                             [**2121-9-21**]  11:46 AM
                             [**2121-9-22**]  05:00 AM
   WBC
   7.5
   11.4
   4.1
   4.4
   Hct
   26.0
   27.4
   21.0
   25.5
   Plt
   146
   79
   41
   36
   Cr
   2.2
   2.2
   2.7
   2.5
   2.4
   TropT
   0.02
   0.01
   TCO2
   15
   15
   15
   15
   Glucose
   [**Telephone/Fax (3) 10505**]
   137
   222
   Other labs: PT / PTT / INR:13.5/41.9/1.2, CK / CKMB /
   Troponin-T:128/2/0.01, ALT / AST:2/36, Alk Phos / T Bili:76/,
   Differential-Neuts:45.0 %, Band:14.0 %, Lymph:28.0 %, Mono:9.0 %,
   Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.6 g/dL, LDH:1093 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Imaging: KUB: nonspecific gas pattern.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   CARDIAC ARREST
   C DIFF
   THROMBOCYTOPENIA
   ====================
   Hemodynamics stable post arrest. Oxygenation stable following
   extubation. In retrospect, PEA arrest presumed secondary to hypoxemia
   from mucus plug.
   Continues treatment for C Diff with flagyl. With evidence of colitis on
   prior CT and what may be peristent abdominal pain, will start on oral
   vanco.
   Creat stable. Mild acidosis likely due to renal failure. Disease
   probably secondary to myeloma. Allopurinol started.
   Hct 25 following transfusion. No evidence of acute bleeding. Not at
   transfusion threshold now.
   Platelets continue to fall. HIT antibody pending. Not at transfusion
   threshold.
   Heart rate well controlled on diltiazem.
   ICU Care
   Nutrition: NPO
 need to assess for possible PEG; minimal gag reflex;
   try tube feeds; concerns for aspiration
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2121-9-20**] 02:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: VAP Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes